US04654343
To a solution of 1.0 g of 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine in 200 ml of dichloromethane was added 0.36 ml of methyl chloroformate and 0.81 ml of diisopropylethylamine. The mixture was stirred for 3 hours and the solid collected, giving 0.9 g of [3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester. A 0.8 g portion of this compound was suspended in 100 ml of dimethylformamide together with 0.15 g of hexane washed sodium hydride (50% in oil). After 30 minutes, 0.22 ml of ethyl iodide was added. This mixture was stirred 2 hours, then poured into saturated aqueous sodium bicarbonate and extracted with dichloromethane. The extracts were combined, dried and evaporated in vacuo. The residue in dichloromethane:methanol (95:5) was filtered through a short pad of silica gel and the filtration was concentrated. The resulting solid was recrystallized from dichloromethane-hexane, giving 0.32 g of the desired product as off-white crystals, mp 176°-178° C.

reactant | 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | 1.0 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | methyl chloroformate | 0.36 ml | ClC(=O)OC | C2H3ClO2
reactant | diisopropylethylamine | 0.81 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | [3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester | 0.9 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(OC)=O | C14H13N5O2
